US09302989B2
N-(4-{[4-(aminomethyl)benzyl]carbamoyl}phenyl)-5-fluoro-1,3-dihydro-2H-isoindole-2-carboxamide
tert-Butyl 4-((4-(5-fluoroisoindoline-2-carboxamido)benzamido)methyl)benzylcarbamate (392 mg, 0.756 mmol) was dissolved in dichloromethane, treated with trifluoroacetic acid (582 μl, 7.56 mmol), stirred for 3 hours at ambient temperature and then concentrated to dryness. The resulting solid was triturated with ether, collected and dried under vacuum to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.01 (q, J=5.6 Hz, 2H), 4.46 (d, J=6.0 Hz, 2H), 4.76 (d, J=7.9 Hz, 4H), 7.08-7.29 (m, 2H), 7.32-7.44 (m, 5H), 7.67 (d, J=8.7 Hz, 2H), 7.76-7.86 (m, 2H), 8.12 (s, 2H), 8.63 (s, 1H), 8.91 (t, J=6.2 Hz, 1H); MS (ESI(+)) m/e 419 (M+H)+.

reactant | tert-Butyl 4-((4-(5-fluoroisoindoline-2-carboxamido)benzamido)methyl)benzylcarbamate | 0.756 mmol, 392 mg | FC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C(=O)NCC2=CC=C(CNC(OC(C)(C)C)=O)C=C2)C=C1 | C29H31FN4O4
reactant | trifluoroacetic acid | 7.56 mmol, 582 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-{[4-(aminomethyl)benzyl]carbamoyl}phenyl)-5-fluoro-1,3-dihydro-2H-isoindole-2-carboxamide | NCC1=CC=C(CNC(=O)C2=CC=C(C=C2)NC(=O)N2CC3=CC=C(C=C3C2)F)C=C1 | C24H23FN4O2
